US05232923
Ethyl 3,4-diacetoxyphenylpropionate and stearylamine were used to obtain N-Stearyl-3,4-dihydroxyphenylpropionamide by carrying out the same procedures as described in Example 1.

reactant | Ethyl 3,4-diacetoxyphenylpropionate | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C(C(=O)OCC)C | C15H18O6
reactant | stearylamine | C(CCCCCCCCCCCCCCCCC)N | C18H39N
product | N-Stearyl-3,4-dihydroxyphenylpropionamide | C(CCCCCCCCCCCCCCCCC)NC(C(C)C1=CC(=C(C=C1)O)O)=O | C27H47NO3
